US07741347B2
Step 1: (S)-1-Phenylethyl 2-(2-fluorophenyl)acetate:
A mixture of 2-fluorophenylacetic acid (5.45 g, 35.4 mmol), (S)-1-phenylethanol (5.62 g, 46.0 mmol), EDCI (8.82 g, 46.0 mmol) and DMAP (0.561 g, 4.60 mmol) in CH2Cl2 (100 mL) was stirred at room temperature for 12 hours. The solvent was then concentrated and the residue partitioned with H2O-ethyl acetate. The phases were separated and the aqueous layer back-extracted with ethyl acetate (2×). The combined organic phases were washed (H2O, brine), dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography (Biotage/0-20% ethyl acetate-hexane) to provide the title compound as a colorless oil (8.38 g, 92%). 1H NMR (400 MHz, CD3OD) δ 7.32-7.23 (m, 7H), 7.10-7.04 (m, 2), 5.85 (q, J=6.5 Hz, 1H), 3.71 (s, 2H), 1.48 (d, J=6.5 Hz, 3H).

reactant | 2-fluorophenylacetic acid | 35.4 mmol, 5.45 g | FC1=C(C=CC=C1)CC(=O)O | C8H7FO2
reactant | (S)-1-phenylethanol | 46.0 mmol, 5.62 g | C1(=CC=CC=C1)[C@H](C)O | C8H10O
reactant | EDCI | 46.0 mmol, 8.82 g | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 4.60 mmol, 0.561 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-Phenylethyl 2-(2-fluorophenyl)acetate | 8.38 g, 92% | FC1=C(C=CC=C1)CC(=O)O[C@@H](C)C1=CC=CC=C1 | C16H15FO2
